US07968720B2
Methyl-carbamic Acid 4-chloro-3-cyclopropylaminomethyl-benzyl Ester
HCl (4M in dioxane, 35 mL) was added to a sol. of (2-chloro-5-methylcarbamoyloxymethyl-benzyl)-cyclopropyl-carbamic acid tert-butyl ester (3.48 g, 9.43 mmol) in CH2Cl2 (35 mL) at 0° C. The mixture was stirred for 2 h at 0° C., and more CH2Cl2 was added. The mixture was washed with aq. 1M NaOH and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure to yield the crude title compound (2.48 g, 98%) that was used further without purification. LC-MS: tR=0.61 min; ES+: 310.38.

reactant | HCl | 4M, 35 mL | Cl | ClH
reactant | (2-chloro-5-methylcarbamoyloxymethyl-benzyl)-cyclopropyl-carbamic acid tert-butyl ester | 9.43 mmol, 3.48 g | C(C)(C)(C)OC(N(C1CC1)CC1=C(C=CC(=C1)COC(NC)=O)Cl)=O | C18H25ClN2O4
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
product | Methyl-carbamic Acid 4-chloro-3-cyclopropylaminomethyl-benzyl Ester | 2.48 g, 98% | ClC1=C(C=C(COC(NC)=O)C=C1)CNC1CC1 | C13H17ClN2O2
